** Name: SimpleOpAmp38

.MACRO SimpleOpAmp38 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=4e-6 W=10e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=143e-6
mDiodeTransistorPmos3 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=12e-6
mNormalTransistorNmos4 out in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=73e-6
mNormalTransistorNmos5 outVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=119e-6
mNormalTransistorNmos6 FirstStageYinnerSourceLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=73e-6
mNormalTransistorNmos7 FirstStageYsourceTransconductance ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=4e-6 W=143e-6
mNormalTransistorNmos8 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=10e-6
mNormalTransistorPmos9 out outVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=1e-6 W=174e-6
mNormalTransistorPmos10 FirstStageYinnerSourceLoad1 outVoltageBiasXXpXX1 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 pmos4 L=1e-6 W=174e-6
mNormalTransistorPmos11 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=3e-6 W=33e-6
mNormalTransistorPmos12 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=3e-6 W=33e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp38

** Expected Performance Values: 
** Gain: 55 dB
** Power consumption: 1.35401 mW
** Area: 2550 (mu_m)^2
** Transit frequency: 14.7671 MHz
** Transit frequency with error factor: 14.7667 MHz
** Slew rate: 14.0197 V/mu_s
** Phase margin: 87.6626°
** CMRR: 98 dB
** VoutMax: 4.25 V
** VoutMin: 0.990001 V
** VcmMax: 4.81001 V
** VcmMin: 1.39001 V


** Expected Currents: 
** NormalTransistorNmos: 119.784 muA
** NormalTransistorPmos: -70.5459 muA
** NormalTransistorPmos: -70.5469 muA
** NormalTransistorPmos: -70.5459 muA
** NormalTransistorPmos: -70.5469 muA
** NormalTransistorNmos: 141.092 muA
** DiodeTransistorNmos: 141.093 muA
** NormalTransistorNmos: 70.5451 muA
** NormalTransistorNmos: 70.5451 muA
** DiodeTransistorNmos: 9.99901 muA
** NormalTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -119.783 muA


** Expected Voltages: 
** ibias: 1.24201  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outSourceVoltageBiasXXnXX1: 0.622001  V
** outVoltageBiasXXpXX1: 3.68601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 3.83601  V
** innerTransistorStack1Load1: 4.40001  V
** innerTransistorStack2Load1: 4.40001  V
** sourceTransconductance: 1.94401  V
** inner: 0.619001  V


.END