** Name: SimpleOpAmp39

.MACRO SimpleOpAmp39 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=2e-6 W=5e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=10e-6
mDiodeTransistorPmos3 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=1e-6 W=52e-6
mDiodeTransistorPmos4 FirstStageYout1 FirstStageYout1 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 pmos4 L=1e-6 W=52e-6
mNormalTransistorNmos5 out in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=6e-6 W=85e-6
mNormalTransistorNmos6 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=283e-6
mNormalTransistorNmos7 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=6e-6 W=85e-6
mNormalTransistorNmos8 FirstStageYsourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=2e-6 W=268e-6
mNormalTransistorPmos9 out FirstStageYout1 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 pmos4 L=1e-6 W=52e-6
mNormalTransistorPmos10 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=1e-6 W=52e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp39

** Expected Performance Values: 
** Gain: 48 dB
** Power consumption: 1.45201 mW
** Area: 2360 (mu_m)^2
** Transit frequency: 13 MHz
** Transit frequency with error factor: 13.0001 MHz
** Slew rate: 27.9305 V/mu_s
** Phase margin: 88.2356°
** CMRR: 94 dB
** VoutMax: 3.66001 V
** VoutMin: 0.650001 V
** VcmMax: 3.5 V
** VcmMin: 1.46001 V


** Expected Currents: 
** DiodeTransistorPmos: -140.219 muA
** NormalTransistorPmos: -140.22 muA
** NormalTransistorPmos: -140.219 muA
** DiodeTransistorPmos: -140.22 muA
** NormalTransistorNmos: 280.438 muA
** NormalTransistorNmos: 280.437 muA
** NormalTransistorNmos: 140.22 muA
** NormalTransistorNmos: 140.22 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA


** Expected Voltages: 
** ibias: 1.18001  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outSourceVoltageBiasXXnXX1: 0.558001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 4.04601  V
** innerStageBias: 0.617001  V
** innerTransistorStack1Load1: 4.04301  V
** out1: 3.09201  V
** sourceTransconductance: 1.75201  V


.END