** Name: SimpleOpAmp45

.MACRO SimpleOpAmp45 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=3e-6 W=6e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=15e-6
mDiodeTransistorPmos3 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=4e-6 W=17e-6
mDiodeTransistorPmos4 inputVoltageBiasXXpXX2 inputVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=4e-6 W=11e-6
mDiodeTransistorPmos5 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=2e-6 W=422e-6
mNormalTransistorNmos6 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=65e-6
mNormalTransistorNmos7 inputVoltageBiasXXpXX2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=18e-6
mNormalTransistorNmos8 out ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=3e-6 W=55e-6
mNormalTransistorNmos9 FirstStageYinnerSourceLoad2 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=3e-6 W=55e-6
mNormalTransistorNmos10 FirstStageYsourceGCC1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=271e-6
mNormalTransistorNmos11 FirstStageYsourceGCC2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=271e-6
mNormalTransistorPmos12 out inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 pmos4 L=4e-6 W=263e-6
mNormalTransistorPmos13 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=2e-6 W=422e-6
mNormalTransistorPmos14 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=153e-6
mNormalTransistorPmos15 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=153e-6
mNormalTransistorPmos16 FirstStageYsourceTransconductance inputVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=4e-6 W=117e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp45

** Expected Performance Values: 
** Gain: 85 dB
** Power consumption: 2.09701 mW
** Area: 5894 (mu_m)^2
** Transit frequency: 13.0041 MHz
** Transit frequency with error factor: 13.0042 MHz
** Slew rate: 11.8751 V/mu_s
** Phase margin: 85.3708°
** CMRR: 142 dB
** VoutMax: 4.51001 V
** VoutMin: 0.830001 V
** VcmMax: 3.80001 V
** VcmMin: -0.409999 V


** Expected Currents: 
** NormalTransistorNmos: 43.1501 muA
** NormalTransistorNmos: 11.8201 muA
** NormalTransistorNmos: 115.36 muA
** NormalTransistorNmos: 177.231 muA
** NormalTransistorNmos: 115.36 muA
** NormalTransistorNmos: 177.231 muA
** DiodeTransistorPmos: -115.359 muA
** NormalTransistorPmos: -115.359 muA
** NormalTransistorPmos: -115.359 muA
** NormalTransistorPmos: -123.744 muA
** NormalTransistorPmos: -61.8719 muA
** NormalTransistorPmos: -61.8719 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -43.1509 muA
** DiodeTransistorPmos: -11.8209 muA


** Expected Voltages: 
** ibias: 1.20501  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.68601  V
** inputVoltageBiasXXpXX2: 3.94801  V
** out: 2.5  V
** outSourceVoltageBiasXXnXX1: 0.558001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 4.26101  V
** innerTransistorStack2Load2: 4.56201  V
** sourceGCC1: 0.526001  V
** sourceGCC2: 0.526001  V
** sourceTransconductance: 3.21401  V


.END