** Name: SimpleOpAmp50

.MACRO SimpleOpAmp50 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 FirstStageYout1 FirstStageYout1 sourceNmos sourceNmos nmos4 L=2e-6 W=5e-6
mDiodeTransistorNmos2 ibias ibias sourceNmos sourceNmos nmos4 L=3e-6 W=6e-6
mDiodeTransistorPmos3 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=21e-6
mDiodeTransistorPmos4 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=1e-6 W=13e-6
mNormalTransistorNmos5 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=150e-6
mNormalTransistorNmos6 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=150e-6
mNormalTransistorNmos7 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=3e-6 W=86e-6
mNormalTransistorNmos8 inputVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=3e-6 W=31e-6
mNormalTransistorNmos9 out FirstStageYout1 sourceNmos sourceNmos nmos4 L=2e-6 W=5e-6
mNormalTransistorPmos10 FirstStageYout1 inputVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=253e-6
mNormalTransistorPmos11 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=72e-6
mNormalTransistorPmos12 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=72e-6
mNormalTransistorPmos13 out inputVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=253e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp50

** Expected Performance Values: 
** Gain: 51 dB
** Power consumption: 2.03801 mW
** Area: 2573 (mu_m)^2
** Transit frequency: 13.3711 MHz
** Transit frequency with error factor: 13.3715 MHz
** Slew rate: 12.0979 V/mu_s
** Phase margin: 85.3708°
** CMRR: 95 dB
** VoutMax: 3.92001 V
** VoutMin: 0.690001 V
** VcmMax: 5.04001 V
** VcmMin: 0.810001 V


** Expected Currents: 
** NormalTransistorNmos: 51.3331 muA
** NormalTransistorPmos: -102.751 muA
** NormalTransistorPmos: -173.105 muA
** NormalTransistorPmos: -102.751 muA
** NormalTransistorPmos: -173.105 muA
** DiodeTransistorNmos: 102.752 muA
** NormalTransistorNmos: 102.752 muA
** NormalTransistorNmos: 140.708 muA
** NormalTransistorNmos: 70.3531 muA
** NormalTransistorNmos: 70.3531 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -51.3339 muA
** DiodeTransistorPmos: -51.3329 muA


** Expected Voltages: 
** ibias: 0.647001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.03601  V
** out: 2.5  V
** outSourceVoltageBiasXXpXX1: 4.06801  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** out1: 1.09901  V
** sourceGCC1: 3.75  V
** sourceGCC2: 3.75  V
** sourceTransconductance: 1.92801  V


.END