** Name: SimpleOpAmp51

.MACRO SimpleOpAmp51 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=4e-6 W=7e-6
mDiodeTransistorNmos2 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=1e-6 W=13e-6
mDiodeTransistorPmos3 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=2e-6 W=6e-6
mDiodeTransistorPmos4 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=9e-6
mNormalTransistorNmos5 inputVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=4e-6 W=8e-6
mNormalTransistorNmos6 out FirstStageYout1 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 nmos4 L=1e-6 W=55e-6
mNormalTransistorNmos7 FirstStageYout1 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=1e-6 W=13e-6
mNormalTransistorNmos8 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=4e-6 W=154e-6
mNormalTransistorNmos9 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=4e-6 W=154e-6
mNormalTransistorNmos10 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=4e-6 W=105e-6
mNormalTransistorPmos11 out inputVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=2e-6 W=588e-6
mNormalTransistorPmos12 FirstStageYout1 inputVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=2e-6 W=588e-6
mNormalTransistorPmos13 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=152e-6
mNormalTransistorPmos14 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=152e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp51

** Expected Performance Values: 
** Gain: 89 dB
** Power consumption: 2.03901 mW
** Area: 4783 (mu_m)^2
** Transit frequency: 15.3711 MHz
** Transit frequency with error factor: 15.3707 MHz
** Slew rate: 13.1449 V/mu_s
** Phase margin: 71.6198°
** CMRR: 148 dB
** VoutMax: 3.91001 V
** VoutMin: 0.890001 V
** VcmMax: 5.03001 V
** VcmMin: 0.810001 V


** Expected Currents: 
** NormalTransistorNmos: 11.4071 muA
** NormalTransistorPmos: -119.403 muA
** NormalTransistorPmos: -193.195 muA
** NormalTransistorPmos: -119.403 muA
** NormalTransistorPmos: -193.195 muA
** NormalTransistorNmos: 119.404 muA
** NormalTransistorNmos: 119.404 muA
** DiodeTransistorNmos: 119.404 muA
** NormalTransistorNmos: 147.584 muA
** NormalTransistorNmos: 73.7911 muA
** NormalTransistorNmos: 73.7911 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -11.4079 muA
** DiodeTransistorPmos: -11.4089 muA


** Expected Voltages: 
** ibias: 0.664001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.03601  V
** out: 2.5  V
** outSourceVoltageBiasXXpXX1: 4.05901  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 0.733001  V
** out1: 1.29801  V
** sourceGCC1: 3.75  V
** sourceGCC2: 3.75  V
** sourceTransconductance: 1.94401  V


.END