** Name: SimpleOpAmp52

.MACRO SimpleOpAmp52 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=8e-6 W=12e-6
mDiodeTransistorNmos2 inputVoltageBiasXXnXX2 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=8e-6 W=8e-6
mDiodeTransistorNmos3 FirstStageYout1 FirstStageYout1 sourceNmos sourceNmos nmos4 L=2e-6 W=83e-6
mDiodeTransistorPmos4 ibias ibias outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=2e-6 W=31e-6
mDiodeTransistorPmos5 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=5e-6
mNormalTransistorNmos6 out inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=8e-6 W=116e-6
mNormalTransistorNmos7 FirstStageYinnerTransistorStack2Load2 FirstStageYout1 sourceNmos sourceNmos nmos4 L=2e-6 W=83e-6
mNormalTransistorNmos8 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=33e-6
mNormalTransistorNmos9 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=33e-6
mNormalTransistorNmos10 FirstStageYsourceTransconductance inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=8e-6 W=33e-6
mNormalTransistorPmos11 inputVoltageBiasXXnXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=28e-6
mNormalTransistorPmos12 inputVoltageBiasXXnXX2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=15e-6
mNormalTransistorPmos13 out ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=2e-6 W=527e-6
mNormalTransistorPmos14 FirstStageYout1 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=2e-6 W=527e-6
mNormalTransistorPmos15 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=84e-6
mNormalTransistorPmos16 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=84e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp52

** Expected Performance Values: 
** Gain: 88 dB
** Power consumption: 2.24801 mW
** Area: 4352 (mu_m)^2
** Transit frequency: 13.2641 MHz
** Transit frequency with error factor: 13.2642 MHz
** Slew rate: 11.581 V/mu_s
** Phase margin: 73.9116°
** CMRR: 146 dB
** VoutMax: 3.81001 V
** VoutMin: 0.470001 V
** VcmMax: 4.93001 V
** VcmMin: 1.16001 V


** Expected Currents: 
** NormalTransistorPmos: -57.0169 muA
** NormalTransistorPmos: -30.5439 muA
** NormalTransistorPmos: -107.015 muA
** NormalTransistorPmos: -171.05 muA
** NormalTransistorPmos: -107.015 muA
** NormalTransistorPmos: -171.05 muA
** DiodeTransistorNmos: 107.016 muA
** NormalTransistorNmos: 107.016 muA
** NormalTransistorNmos: 107.016 muA
** NormalTransistorNmos: 128.068 muA
** NormalTransistorNmos: 64.0341 muA
** NormalTransistorNmos: 64.0341 muA
** DiodeTransistorNmos: 57.0161 muA
** DiodeTransistorNmos: 30.5431 muA
** DiodeTransistorPmos: -9.99899 muA
** DiodeTransistorPmos: -9.99999 muA


** Expected Voltages: 
** ibias: 3.20701  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 1.07301  V
** inputVoltageBiasXXnXX2: 1.00801  V
** out: 2.5  V
** outSourceVoltageBiasXXpXX1: 3.96101  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack2Load2: 0.374001  V
** out1: 0.579001  V
** sourceGCC1: 3.92101  V
** sourceGCC2: 3.92101  V
** sourceTransconductance: 1.94301  V


.END